US09403831B2
1-((1-(5-bromopyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (30 mg, 0.066 mmol), 1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazole (32 mg, 0.099 mmol), Pd(dppf)2Cl2(2.7 mg, 0.003 mmol), and K2CO3(28 mg, 0.20 mmol) were dissolved in dioxane (1.2 ml)+H2O (0.3 ml), and the mixture was degassed with N2(gas), followed by stirring at 80° C. for 2 hours. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (MeOH:MC=1:20), to give 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-3-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (28 mg, 78%).

reactant | 1-((1-(5-bromopyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 0.066 mmol, 30 mg | BrC=1C=NC(=NC1)N1CC(CCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C18H19BrN10
reactant | 1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazole | 0.099 mmol, 32 mg | O1C(CCCC1)OCCN1N=C(C=C1)B1OC(C(O1)(C)C)(C)C | C16H27BN2O4
reactant | K2CO3 | 0.20 mmol, 28 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 1.2 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 0.3 ml | O | H2O
catalyst | Pd(dppf)2Cl2 | 0.003 mmol, 2.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(1-methyl-1H-pyrazol-4-yl)-1-((1-(5-(1-(2-((tetrahydro-2H-pyran-2-yl)oxy)ethyl)-1H-pyrazol-3-yl)pyrimidin-2-yl)piperidin-3-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 28 mg, 78% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=NN(C=C2)CCOC2OCCCC2 | C28H34N12O2
